US08314138B2
Synthesis of 2-{6-[(4-difluoromethoxy-benzyl)-methyl-amino]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide
Following the procedure described in Example 14, making variations as required to replace 4-fluoro-N-methyl-benzylamine with (4-difluoromethoxy-benzyl)-methyl-amine to react with 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide, the title compound was obtained in 80% yield. 1H NMR (400 MHz, CD2Cl2) δ 8.58 (s, 1H), 8.07 (s, 1H), 7.26-7.37 (m, 4H), 7.00-7.11 (m, 4H), 6.51 (bt, J=76, 64 Hz, 1H, CH—F signal), 6.16 (bs, 1H), 4.82 (s, 2H), 4.54 (d, J=8.0 Hz, 2H), 3.14 (s, 3H), 2.70 (s, 3H); MS (ES+) m/z 514.2 (M+1), Rt=1.63 min.

reactant | 4-fluoro-N-methyl-benzylamine | FC1=CC=C(CNC)C=C1 | C8H10FN
reactant | (4-difluoromethoxy-benzyl)-methyl-amine | FC(OC1=CC=C(CNC)C=C1)F | C9H11F2NO
reactant | 2-(6-iodo-pyrazin-2-yl)-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)I)C)C=C1 | C16H12FIN4OS
product | 2-{6-[(4-difluoromethoxy-benzyl)-methyl-amino]-pyrazin-2-yl}-4-methyl-thiazole-5-carboxylic acid 4-fluoro-benzylamide | 80% yield | FC1=CC=C(CNC(=O)C2=C(N=C(S2)C2=NC(=CN=C2)N(C)CC2=CC=C(C=C2)OC(F)F)C)C=C1 | C25H22F3N5O2S
